US06608227B1
Part A. Preparation of 8-[(4-fluorophenyl)methylene]-1,4-dioxaspiro[4.5]decane
To a stirring solution of 4-fluorophenylmethyl triphenylphosphonium chloride (39 g, 96 mmol, Lancaster) in 500 mL of dry THF at −78° C. was added 1 M potassium t-butoxide in THF (106 mL, 106 mmol, Aldrich). The reaction was stirred for 30 min and then warmed to 0° C. The reaction was stirred for 30 min and then 1,4-cyclohexanedione mono-ethylene ketal (15.0 g, 96 mmol, Aldrich) was added. After 30 min, the reaction was warmed to room temperature and allowed to stir overnight. The reaction was heated to reflux for 4 h and then cooled to room temperature. The reaction was quenched with saturated ammonium chloride (500 mL) and ethyl acetate (500 mL). The organic layer was separated, washed with brine, dried over sodium sulfate, and conc in vacuo to a white solid. The solid was purified by flash chromatography (SiO2, 19:1 hexanes:ethyl acetate) to yield 18.9 g of a colorless oil. MS (ESI) 251 (M+H).

reactant | 4-fluorophenylmethyl triphenylphosphonium chloride | 96 mmol, 39 g | [Cl-].FC1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 1 M | CC(C)([O-])C.[K+]
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 96 mmol, 15.0 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 106 mmol, 106 mL | C1CCOC1 | C4H8O
product | 8-[(4-fluorophenyl)methylene]-1,4-dioxaspiro[4.5]decane | 18.9 g | FC1=CC=C(C=C1)C=C1CCC2(OCCO2)CC1 | C15H17FO2
